US08461328B2
To a solution of N-(2,4-Dimethoxy-benzyl)-2-(4-ethoxy-2-oxo-cyclohex-3-enyl)-acetamide (549 mg, 1.58 mmol) in THF (10 mL) at −78° C. was added 1.0M of diisobutylaluminum hydride in heptane (2.0 mL). The reaction mixture was then stirred at 0° C. for one hour. 5 M of hydrogen chloride in water (2.0 mL) was added and the reaction mixture stirred at room temperature for 30 minutes. The reaction mixture was then partitioned between water and ethyl acetate, and the organic layer dried with brine and magnesium sulfate, filtered, and evaporated in vacuo to yield 471.8 mg (98%) of N-(2,4-Dimethoxy-benzyl)-2-(4-oxo-cyclohex-2-enyl)-acetamide which was carried forward without purification. LCMS (Method E, ESI): RT=1.23 min, m+H=304.2; 1H NMR (400 MHz, CDCl3) δ: 7.19 (d, J=8.1 Hz, 1H), 6.84 (ddd, J=10.2, 2.6, 1.3 Hz, 1H), 6.45 (dt, J=8.2, 2.2 Hz, 2H), 5.97 (dd, J=10.2, 2.1 Hz, 1H), 5.88 (s, 1H), 4.38 (d, J=5.7 Hz, 2H), 3.83 (s, 3H), 3.80 (s, 3H), 3.02 (s, 1H), 2.51-2.36 (m, 2H), 2.36-2.27 (m, 1H), 2.23 (dd, J=14.5, 7.6 Hz, 1H), 2.19-2.08 (m, 1H), 1.76-1.62 (m, 1H).

reactant | N-(2,4-Dimethoxy-benzyl)-2-(4-ethoxy-2-oxo-cyclohex-3-enyl)-acetamide | 1.58 mmol, 549 mg | COC1=C(CNC(CC2C(C=C(CC2)OCC)=O)=O)C=CC(=C1)OC | C19H25NO5
reactant | diisobutylaluminum hydride | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrogen chloride | 5 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | heptane | 2.0 mL | CCCCCCC | C7H16
solvent | water | 2.0 mL | O | H2O
product | N-(2,4-Dimethoxy-benzyl)-2-(4-oxo-cyclohex-2-enyl)-acetamide | 471.8 mg, 98% | COC1=C(CNC(CC2C=CC(CC2)=O)=O)C=CC(=C1)OC | C17H21NO4
